US05710166
β-[[3-[4-(aminoiminomethyl)benzyl]aminopropanoyl]amino]-3-pyridinepropanoic acid
Ethyl β-[[3-[4-(aminoiminomethyl)benzyl]aminopropanoyl]amino]3-pyridine-propanoate (70 mg) was treated with 1N lithium hydroxide and methanol (1:1; 20 ml) for 5 min. Methanol was removed under reduced pressure and the residue was purified by HPLC using acetonitrile/water/trifluoroacetic acid system. The desired fractions were collected and lyophilized to give 50 mg of white material (77% yield). FAB-MS: MH+ =370.3.

reactant | Ethyl β-[[3-[4-(aminoiminomethyl)benzyl]aminopropanoyl]amino]3-pyridine-propanoate | 70 mg | NN=CC1=CC=C(CNCCC(=O)NC(CC(=O)OCC)C=2C=NC=CC2)C=C1 | C21H27N5O3
reactant | lithium hydroxide | 1N | [OH-].[Li+]
solvent | methanol | 20 ml | CO | CH4O
product | β-[[3-[4-(aminoiminomethyl)benzyl]aminopropanoyl]amino]-3-pyridinepropanoic acid | 50 mg, 77% yield | NN=CC1=CC=C(CNCCC(=O)NC(CC(=O)O)C=2C=NC=CC2)C=C1 | C19H23N5O3
